US07781443B2
(2R,4S)-4-{[5-(4-Acetylpiperazin-1-yl)pyrimidin-2-yl]-[3,5-bis-(trifluoromethyl)benzyl]}amino-2-ethyl-6-trifluoromethanesulfonyloxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (200 mg) is dissolved in 1,4-dioxane (2 ml), and thereto are added dropwise a catalytic amount of tetrakis(triphenylphosphine)palladium, silver carbonate and copper (I) chloride, and a 1M solution (362 μl) of trimethylaluminum in hexane under nitrogen flow. The mixture is stirred at 60° C. for 1 hour. The reaction solution is cooled to room temperature, and thereto are added water and ethyl acetate. The organic layer is washed with saturated brine and dried over magnesium sulfate, then concentrated under reduced pressure. The resulting residue is purified by column chromatography (NH-silica gel; hexane:ethyl acetate=1:2→0:1) to give (2R,4S)-4-{[5-(4-acetylpiperazin-1-yl)pyrimidin-2-yl]-[3,5-bis(trifluoromethyl)benzyl]}amino-2-ethyl-6-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (142 mg). MS (m/z): 694 [M+H]+.

reactant | (2R,4S)-4-{[5-(4-Acetylpiperazin-1-yl)pyrimidin-2-yl]-[3,5-bis-(trifluoromethyl)benzyl]}amino-2-ethyl-6-trifluoromethanesulfonyloxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 200 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OS(=O)(=O)C(F)(F)F)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=NC=C(C=N1)N1CCN(CC1)C(C)=O)CC | C33H34F9N7O6S
reactant | trimethylaluminum | C[Al](C)C
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | silver carbonate | C([O-])([O-])=O.[Ag+2]
catalyst | copper (I) chloride | [Cu]Cl
product | (2R,4S)-4-{[5-(4-acetylpiperazin-1-yl)pyrimidin-2-yl]-[3,5-bis(trifluoromethyl)benzyl]}amino-2-ethyl-6-methyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 142 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)C)NC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=NC=C(C=N1)N1CCN(CC1)C(C)=O)CC | C33H37F6N7O3
